** sch_path: /foss/designs/chipathon_2025/designs/gf180/gate_xor/xschem/gate_xor.sch
.subckt gate_xor VDD S A B VSS
*.PININFO VSS:B VDD:B S:B A:B B:B
M2 S B vz VSS nfet_03v3 L=0.28u W=1u nf=1 m=4
M3 S -B vx VDD pfet_03v3 L=0.28u W=3u nf=1 m=4
M1 vx A VDD VDD pfet_03v3 L=0.28u W=3u nf=1 m=4
M4 S -B vw VSS nfet_03v3 L=0.28u W=1u nf=1 m=4
M5 S B vy VDD pfet_03v3 L=0.28u W=3u nf=1 m=4
M6 vy -A VDD VDD pfet_03v3 L=0.28u W=3u nf=1 m=4
M7 vz A VSS VSS nfet_03v3 L=0.28u W=1u nf=1 m=4
M8 vw -A VSS VSS nfet_03v3 L=0.28u W=1u nf=1 m=4
xINVA VDD -A A VSS gate_inv_L0d28
xINVB VDD -B B VSS gate_inv_L0d28
M10 VDD VDD vx VDD pfet_03v3 L=0.28u W=3u nf=1 m=2
M11 VDD VDD vy VDD pfet_03v3 L=0.28u W=3u nf=1 m=2
M13 vz VSS VSS VSS nfet_03v3 L=0.28u W=1u nf=1 m=2
M14 vw VSS VSS VSS nfet_03v3 L=0.28u W=1u nf=1 m=2
.ends

* expanding   symbol:  gf180/gate_inv_L0d28/xschem/gate_inv_L0d28.sym # of pins=4
** sym_path: /foss/designs/chipathon_2025/designs/gf180/gate_inv_L0d28/xschem/gate_inv_L0d28.sym
** sch_path: /foss/designs/chipathon_2025/designs/gf180/gate_inv_L0d28/xschem/gate_inv_L0d28.sch
.subckt gate_inv_L0d28 VDD B A VSS
*.PININFO B:O A:I VDD:B VSS:B
MN B A VSS VSS nfet_03v3 L=0.28u W=1u nf=1 m=2
MP B A VDD VDD pfet_03v3 L=0.28u W=3u nf=1 m=2
.ends

